US06489487B1
To a solution of 2.56 g of this crude 3-phenylbenzylisocyanate in 8 ml of toluene was added dropwise 0.78 g (13 mmol) of N,N-dimethylhydrazine with ice-cooling. The mixture was removed from an ice bath and stirred for 1.5 hours. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=1:1 and then 1:2) to obtain 1.40 g (5.20 mmol) of 1,1-dimethyl-4-(3-phenylbenzyl)semicarbazide.

reactant | 3-phenylbenzylisocyanate | 2.56 g | C1(=CC=CC=C1)C=1C=C(CN=C=O)C=CC1 | C14H11NO
reactant | N,N-dimethylhydrazine | 13 mmol, 0.78 g | CN(N)C | C2H8N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethyl-4-(3-phenylbenzyl)semicarbazide | 5.20 mmol, 1.40 g | CN(NC(=O)NCC1=CC(=CC=C1)C1=CC=CC=C1)C | C16H19N3O
